2122-01-06 11:01:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status, Hypotension
   HPI:
   No changes from admit
   24 Hour Events:
 MULTI LUMEN - START [**2122-1-5**] 09:45 PM
   4U PRBC yesterday
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Thrombocytopeni
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: melena
   Neurologic: altered mental status
   Flowsheet Data as of  [**2122-1-6**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.2
   HR: 88 (74 - 117) bpm
   BP: 113/49(65) {88/24(40) - 134/94(103)} mmHg
   RR: 20 (16 - 46) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,913 mL
                                                                  1,392 mL
   PO:
             TF:
   IVF:
                                                                     38 mL
                                                                  1,392 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,600 mL
                                                                    930 mL
   Urine:
   930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    313 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   253 K/uL
   153 mg/dL
   2.6 mg/dL
   20 mEq/L
   4.9 mEq/L
   107 mg/dL
   119 mEq/L
   150 mEq/L
   25.6 %
   12.5 K/uL
        [image002.jpg]
                             [**2122-1-6**]  02:22 AM
                             [**2122-1-6**]  05:09 AM
   WBC
   12.5
   Hct
   30.3
   25.6
   Plt
   253
   Cr
   2.6
   Glucose
   153
   Other labs: PT / PTT / INR:12.6/26.6/1.1, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:4.2 mg/dL
   Microbiology: +UA, cuture pending.
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Appropriate bump to transfusion. [**Hospital1 **] Hct. PPI. GI aware, no plans for
   intervention at this time.
 HYPOTENSION (NOT SHOCK)
   Volume responsive. Hypovolemia vs distributive. Hypernatremic today.
   Additonal PRBC today as well as prn NS. D51/2NS gtt for free water. Aim
   to tiraste off pressors with volume.
 ALTERED MENTAL STATUS -
   Hypotension, likely UTI , hypernatremia,.
   *** UT
   Cipro, follow up cultures.
   ICU Care
   Nutrition:
   Comments: failed bedside swallow. Will hold off on enteral access
   pending resolution of mental status.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-1-5**] 09:45 PM
   18 Gauge - [**2122-1-5**] 09:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2122-01-06 13:07:00 Physician Resident Progress Note
Chief Complaint: lethargy
   24 Hour Events:
 MULTI LUMEN - START [**2122-1-5**] 09:45 PM
   admitted to MICU Green--see admission note for main details; this note
   imports morning data and provides a few additional details.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, baseline dementia
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Thrombocytopeni
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-6**] 01:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 86 (69 - 117) bpm
   BP: 108/53(65) {88/24(40) - 134/94(103)} mmHg
   RR: 27 (16 - 46) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,913 mL
                                                                  1,935 mL
   PO:
           TF:
   IVF:
                                                                     38 mL
                                                                  1,934 mL
   Blood products:
                                                                    500 mL
                                                                      1 mL
   Total out:
                                                                  1,600 mL
                                                                  1,130 mL
   Urine:
   1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    313 mL
                                                                    805 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: Pupils dilated, Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   8.8 g/dL
   153 mg/dL
   2.6 mg/dL
   20 mEq/L
   4.9 mEq/L
   107 mg/dL
   119 mEq/L
   150 mEq/L
   25.6 %
   12.5 K/uL
        [image002.jpg]
                             [**2122-1-6**]  02:22 AM
                             [**2122-1-6**]  05:09 AM
   WBC
   12.5
   Hct
   30.3
   25.6
   Plt
   253
   Cr
   2.6
   Glucose
   153
   Other labs: PT / PTT / INR:12.6/26.6/1.1, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   See admission note for full plan and details. In summary:
   HYPOTENSION. likely primarily [**3-8**] sepsis with contribution of
   slow-oozing GIB. Continue ciproflox and f.u cxs. Large free water
   deficit today; give boluses as tolerated. Abd U/S was negative for any
   concern re AAA.
   - hold antihypertensives
   GIB. Likely present but not urgent. Seems reasonable to defer treatment
   if no hemodynamic changes given risks of intubating this only
   semi-responsive patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-1-5**] 09:45 PM
   18 Gauge - [**2122-1-5**] 09:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2122-01-07 09:45:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-1-6**] 08:45 AM
   Still on pressors. Femoral line still in.
   2 U PRBC
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Thrombocytopeni
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2122-1-7**] 08:04 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-7**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 102 (65 - 108) bpm
   BP: 104/49(64) {96/39(52) - 125/66(78)} mmHg
   RR: 26 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  5,792 mL
                                                                    637 mL
   PO:
           TF:
   IVF:
                                                                  5,507 mL
                                                                    358 mL
   Blood products:
                                                                    285 mL
                                                                    279 mL
   Total out:
                                                                  1,870 mL
                                                                    490 mL
   Urine:
                                                                  1,870 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,922 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: JVP flat
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Movement: Not assessed, Tone: Not assessed, Not oriented
   Labs / Radiology
   11.2 g/dL
   184 K/uL
   99 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   67 mg/dL
   121 mEq/L
   148 mEq/L
   32.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2122-1-6**]  02:22 AM
                             [**2122-1-6**]  05:09 AM
                             [**2122-1-6**]  05:13 PM
                             [**2122-1-7**]  04:46 AM
   WBC
   12.5
   10.9
   Hct
   30.3
   25.6
   28.6
   32.2
   Plt
   253
   184
   Cr
   2.6
   2.0
   1.7
   Glucose
   153
   151
   99
   Other labs: PT / PTT / INR:12.6/26.6/1.1, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   +Urine culture - on cipro. F/u cultures.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   Still underressucitated - 1L now and reasses in 1 hour.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct stable, no plans for intervention
 HYPOTENSION (NOT SHOCK)
   As above - needs volume
   Further Plans as per resident note.
   ICU Care
   Nutrition:
   Comments: NG and tube feeds today.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-1-5**] 09:45 PM
   18 Gauge - [**2122-1-5**] 09:45 PM
   Comments: Hopefully will come off pressors and DC central line this am.
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan, written by Dr. [**Last Name (STitle) **].
   [**Location (un) 2599**]. I would emphasize and add the following points: [**Age over 90 **]F urosepsis,
   GIB, hypotension due to septic or hypovolemic shock.
   Exam notable for Tm 97.9 BP 124/54 HR 74 RR 18 with sat 99 on 2L. UOP
   >50 cc/h. O/P remains very dry, neck veins flat. CTA B, RRR s1s2.
   Abdomen is soft. No edema. Labs notable for WBC 10K, HCT 32, K+ 4.0,
   Cr 2.6 to 1.7.
   Agree with plan to continue antibiotics for urosepsis and serial
   transfusions for blood loss anemia, which has stabilized / improved.
   Suspect we will be able to d/c pressors soon if we give another 1-2L
   IVF; if not will need to consider PICC or CVL, though I hope to avoid
   this and would favor arterial line as a first step to confirm
   hypotension given absence of end organ dysfunction. Hypernatremic at
   the moment, so will need to also address FW repletion over the next few
   days. Advance diet, OOB. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min

2122-01-07 09:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-1-6**] 08:45 AM
   Unable to wean off levophed overnight
   Received free water for hypernatremia
   Received two units pRBCs
   Started on HISS given BG >150
   Urine lytes checked  FeNA 2.4%, FeUREA 49.3% c/w intrinsic renal;
   Significant urine output (1.8 L) with hypernatremia suggestive of post
   ATN diuresis
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Thrombocytopeni
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2122-1-7**] 08:04 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt denies pain today
   Flowsheet Data as of  [**2122-1-7**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 102 (65 - 108) bpm
   BP: 104/49(64) {96/39(52) - 125/66(78)} mmHg
   RR: 26 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  5,792 mL
                                                                    637 mL
   PO:
           TF:
   IVF:
                                                                  5,507 mL
                                                                    358 mL
   Blood products:
                                                                    285 mL
                                                                    279 mL
   Total out:
                                                                  1,870 mL
                                                                    490 mL
   Urine:
                                                                  1,870 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,922 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   GEN: Similar appearance to prior, tracks and appears to respond to
   examiners but does not vocalize, can follow basic commands (opens
   mouth)
   HEENT: Dry mouth, clear OP in limited exam
   COR: RRR, 3/6 SEM, quiet today
   PULM: Clear on limited
   Labs / Radiology
   184 K/uL
   11.2 g/dL
   99 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   67 mg/dL
   121 mEq/L
   148 mEq/L
   32.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2122-1-6**]  02:22 AM
                             [**2122-1-6**]  05:09 AM
                             [**2122-1-6**]  05:13 PM
                             [**2122-1-7**]  04:46 AM
   WBC
   12.5
   10.9
   Hct
   30.3
   25.6
   28.6
   32.2
   Plt
   253
   184
   Cr
   2.6
   2.0
   1.7
   Glucose
   153
   151
   99
   Other labs: PT / PTT / INR:12.6/26.6/1.1, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Infection likely secondary to UTI.
   Still awaiting speciation and sensitivies; for now, ciprofloxacin
   likely to be appropriate and continuing this.
   Volume depleted; see below
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   Pt remains volume depleted in appearance; some concern overnight given
   that sodium was bumping up in response to normal saline; discussed on
   team rounds today, team agreed to bolus with several liters of saline,
   follow with free water as appropriate
   -          hope is that with aggressive volume repletion she should no
   longer require levophed
   -          continue levophed for now, titrate down in trials after
   stages of volume repletion; give additional volume if weaning is not
   tolerated
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   See prior note; maintaining Hct; no GI intervention at this point;
   follow with conservative management and ?intervention as outpatient
 IMPAIRED SKIN INTEGRITY
   Continued nursing care.
   MENTAL STATUS
   Remains tenuous; demented and agitated at baseline; currently calm
   ATRIAL FIBRILLATION
   In sinus as of this morning (converted during rounds); anticoagulation
   contraindicated in setting of GIB
   ICU Care
   Nutrition: unable to take PO ; needs NG tube for tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-1-5**] 09:45 PM
femoral line should come out soon;
   we would prefer not to put a new central line in this frail elderly
   woman, will keep the line for now while continuing aggressive volume
   repletion efforts as described above
   18 Gauge - [**2122-1-5**] 09:45 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: once off pressors stably can be called out to floor ; ICU
   for now

2122-01-08 07:58:00 Physician Resident Progress Note
Chief Complaint: hypotension and lethargy
   24 Hour Events:
   - Blood pressure responsive to fluids -> able to d/c pressors
   - D5 1/2 NS x 1L for hypernatremia
   - NG tube placement unsuccessful -> reconsult S&S in the morning
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, mild responsiveness,
   baseline dementia
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Thrombocytopeni
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2122-1-7**] 08:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-8**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 74 (65 - 102) bpm
   BP: 114/44(61) {101/35(52) - 125/70(77)} mmHg
   RR: 26 (19 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,777 mL
                                                                    610 mL
   PO:
             TF:
   IVF:
                                                                  3,498 mL
                                                                    610 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,240 mL
                                                                    340 mL
   Urine:
                                                                  1,240 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,537 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: Conjunctiva pale
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   10.7 g/dL
   127 mg/dL
   1.3 mg/dL
   18 mEq/L
   3.6 mEq/L
   46 mg/dL
   123 mEq/L
   149 mEq/L
   30.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2122-1-6**]  02:22 AM
                             [**2122-1-6**]  05:09 AM
                             [**2122-1-6**]  05:13 PM
                             [**2122-1-7**]  04:46 AM
                             [**2122-1-7**]  05:47 PM
                             [**2122-1-8**]  04:31 AM
   WBC
   12.5
   10.9
   9.5
   Hct
   30.3
   25.6
   28.6
   32.2
   30.4
   30.3
   Plt
   [**Telephone/Fax (3) 2623**]
   Cr
   2.6
   2.0
   1.7
   1.3
   Glucose
   153
   151
   99
   127
   Other labs: PT / PTT / INR:13.8/28.0/1.2, ALT / AST:[**10-23**], Alk Phos / T
   Bili:64/0.5, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   HYPOTENSION SECONDARY TO SEPSIS
   Ms [**Known lastname 2545**]
s clinical course, in which she has responded to
   ciprofloxacin, has demonstrated the strong likelihood that her initial
   presentation of increasing lethargy and worsening hypotension was
   primarily the result of her urinary tract infection although it is
   likely that her very
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-1-5**] 09:45 PM
   18 Gauge - [**2122-1-5**] 09:45 PM
   22 Gauge - [**2122-1-7**] 01:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2122-01-08 10:14:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   off pressors with fluid resuscitation yesterday.
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Thrombocytopeni
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2122-1-7**] 08:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2122-1-8**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 63 (63 - 89) bpm
   BP: 98/27(45) {94/27(45) - 125/70(77)} mmHg
   RR: 30 (19 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,777 mL
                                                                    762 mL
   PO:
             TF:
   IVF:
                                                                  3,498 mL
                                                                    762 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,240 mL
                                                                    340 mL
   Urine:
                                                                  1,240 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,537 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Tender: mildly
   Extremities: erythema at groin site
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   147 K/uL
   127 mg/dL
   1.3 mg/dL
   18 mEq/L
   3.6 mEq/L
   46 mg/dL
   123 mEq/L
   149 mEq/L
   30.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2122-1-6**]  02:22 AM
                             [**2122-1-6**]  05:09 AM
                             [**2122-1-6**]  05:13 PM
                             [**2122-1-7**]  04:46 AM
                             [**2122-1-7**]  05:47 PM
                             [**2122-1-8**]  04:31 AM
   WBC
   12.5
   10.9
   9.5
   Hct
   30.3
   25.6
   28.6
   32.2
   30.4
   30.3
   Plt
   [**Telephone/Fax (3) 2623**]
   Cr
   2.6
   2.0
   1.7
   1.3
   Glucose
   153
   151
   99
   127
   Other labs: PT / PTT / INR:13.8/28.0/1.2, ALT / AST:[**10-23**], Alk Phos / T
   Bili:64/0.5, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Urinary source. Now off pressors. Pull central line today and continue
   cipro for Proteus UTI. Concern for ascending infection, stone.
   Abdominal CT today.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   Hemodynamics normalized with volume resuscitation
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Stable, check HCT [**Hospital1 **] and maintain BBS
 HYPERNATREMIA
   Needs IV FW repletion and would benefit from small bore feeding tube to
   allow both nutritional support and ongoing FW repletion
   ICU Care
   Nutrition:
   Comments: NG tube today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-1-5**] 09:45 PM
   18 Gauge - [**2122-1-5**] 09:45 PM
   22 Gauge - [**2122-1-7**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes